US05545399
Phloretin (25 mg) is dissolved in the minimum amount of methanol, diluted with water (3 ml) and treated with a slight excess of NaBH4. After 5 minutes the solution is carefully acidified, with ethyl acetate. The Organic phase is dried over Na2SO4 and evaporated to dryness to give 17 mg of dihydrophloretin as white powder, homogeneous on TLC analysis (silica gel, CHCl3 /MeOH/H2O 70:28:2).

reactant | Phloretin | 25 mg | OC1=CC=C(CCC(=O)C=2C(O)=CC(O)=CC2O)C=C1 | C15H14O5
reactant | NaBH4 | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | water | 3 ml | O | H2O
product | dihydrophloretin | 17 mg | OC1CC=C(CCC(=O)C=2C(O)=CC(O)=CC2O)C=C1 | C15H16O5
